US07592361B2
Preparation of [5-(benzyloxy)-1H-indol-1-yl]acetic acid methyl ester
To a solution of 5-benzyloxyindole (1.67 g, 7.489 mmol) in DMF (50 mL) was added sodium hydride (60% dispersion in mineral oil, 389 mg, 9.735 mmol). The resulting suspension was stirred at rt for 1 h at which time methyl bromoacetate (1.26 g, 8.238 mmol) was added. The resulting solution was stirred at rt for 4.5 h. The reaction was quenched with sat. aqueous ammonium chloride solution (25 mL), and diluted with EtOAc (50 mL). The organic layer was washed three times with water. The aqueous layer was extracted with EtOAc again and the combined organic layers were dried over magnesium sulfate, filtered, and concentrated via rotary evaporation. The resulting brown oil was purified on silica gel (hexanes/EtOAc 1:1) to give the title compound as a brownish oil (1.64 g, 74%). LC/MS m/z 296 (M+H)+, RT 3.21 min; 1H NMR (400 MHz, CDCl3) δ 7.35-7.37 (m, 2H), 7.23-7.30 (m, 3H), 7.02-7.08 (m, 2H), 6.95 (d, 1H), 6.87 (dd, 1H), 6.37 (dd, 1H), 5.01 (s, 2H), 4.72 (s, 2H), 3.64 (s, 3H).

reactant | 5-benzyloxyindole | 7.489 mmol, 1.67 g | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | sodium hydride | 9.735 mmol, 389 mg | [H-].[Na+]
reactant | methyl bromoacetate | 8.238 mmol, 1.26 g | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | [5-(benzyloxy)-1H-indol-1-yl]acetic acid methyl ester | 1.64 g, 74% | COC(CN1C=CC2=CC(=CC=C12)OCC1=CC=CC=C1)=O | C18H17NO3
